US09169254B2
4-{2-[2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (1.14 g, 1.66 mmol) was dissolved in THF (8.0 ml). DMAP (60.8 mg, 0.498 mmol) and di-tert-butyl dicarbonate (725.6 mg, 3.32 mmol) were added and the mixture was stirred at room temperature for one hour. Thereafter, di-tert-butyl dicarbonate (181.0 mg, 0.830 mmol) was further added and the mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction solution was diluted with ethyl acetate, and the organic layer was washed with saline. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by column chromatography (hexane:ethyl acetate) to give 2-(3-benzyloxy-5-trifluoromethyl-phenyl)-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester as a white solid (1.11 g, 85.1%).

reactant | 4-{2-[2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 1.66 mmol, 1.14 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCC2=CC=CC=C2)=O)CC1)C)=O | C35H38F3N3O6S
reactant | di-tert-butyl dicarbonate | 3.32 mmol, 725.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.830 mmol, 181.0 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.498 mmol, 60.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-benzyloxy-5-trifluoromethyl-phenyl)-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 1.11 g, 85.1% | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCC2=CC=CC=C2 | C40H46F3N3O8S
